US06476030B1
To a solution of [1,2,4]triazole (7.3 g, 0.11 mol), triphenylphosphine (33 g, 0.13 mol) and 2,2-difluoroethanol (8.0 ml, 10 g, 0.13 mol) in THF (115 ml) was added diethyl azodicarboxylate (20 ml, 22 g, 0.13 mol) dropwise, maintaining the temperature of the mixture between −5 and 0° C. throughout the addition. The resultant solution was allowed to warm to room temperature and was stirred under nitrogen overnight. The solvent was removed it uacuo, and diethyl ether (220 ml) was added to the residue, precipitating a solid. This was separated by filtration, and the filtrate was concentrated in vacuo. The residual oil was purified by distillation under vacuum, yielding 1-(2,2-difluoroethyl)-1H-[1,2,4]triazole as a yellow oil (7.1 g). Data for the title compound: 1H NMR (250 MHz, CDCl3) δ 4.56 (2H, td, J=13.5, 4.1 Hz), 6.13 (1H, tt, J=55.1, 4.2 Hz), 8.01 (1H, s), 8.18 (1H, s).

reactant | [1,2,4]triazole | 0.11 mol, 7.3 g | N1N=CN=C1 | C2H3N3
reactant | triphenylphosphine | 0.13 mol, 33 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,2-difluoroethanol | 0.13 mol, 8.0 ml, 10 g | FC(CO)F | C2H4F2O
reactant | diethyl azodicarboxylate | 0.13 mol, 20 ml, 22 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 115 ml | C1CCOC1 | C4H8O
product | 1-(2,2-difluoroethyl)-1H-[1,2,4]triazole | 7.1 g | FC(CN1N=CN=C1)F | C4H5F2N3
